US08975415B2
The mixture of di-tert-butyl [6′-(6-methoxypyridin-2-yl)dispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl]imidodicarbonate (160 mg, 0.289 mmol) and TsOH.H2O (275 mg, 1.45 mmol) in MeCN (3.2 mL) was stirred for 4 hours at 40° C. After dilution with CHCl3, the organic layer was washed with saturated aqueous NaHCO3 and brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by silica gel chromatography (CHCl3:MeOH=99:1-95:5) and then the residue was washed with EtOAc to afford 6′-(6-methoxypyridin-2-yl)dispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-amine (40 mg).

reactant | di-tert-butyl [6′-(6-methoxypyridin-2-yl)dispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl]imidodicarbonate | 0.289 mmol, 160 mg | COC1=CC=CC(=N1)C=1C=C2C3(N=C(OC3)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C3(COC3)COC2=CC1 | C29H35N3O8
reactant | TsOH.H2O | 1.45 mmol, 275 mg | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | MeCN | 3.2 mL | CC#N | C2H3N
product | 6′-(6-methoxypyridin-2-yl)dispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-amine | 40 mg | COC1=CC=CC(=N1)C=1C=C2C3(N=C(OC3)N)C3(COC3)COC2=CC1 | C19H19N3O4
